US04362744
In the manner of Example 4, the reaction of 1.00 g (0.004 mole) of trans-3-[(4-fluorophenyl)methyl]-1-indanol (96% trans, 4% cis) and 1.07 g (0.004 mole) of cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarbonyl chloride in the presence of 0.32 g (0.004 mole) of pyridine and 50 mL of toluene gave 1.62 g of trans-3-[(4-fluorophenyl)-methyl]-1-indanyl cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarboxylate. The ir and nmr spectra were consistent with the proposed structure.

reactant | trans-3-[(4-fluorophenyl)methyl]-1-indanol | 0.004 mole, 1.00 g | FC1=CC=C(C=C1)C[C@@H]1C[C@H](C2=CC=CC=C12)O | C16H15FO
reactant | cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarbonyl chloride | 0.004 mole, 1.07 g | ClC(=C[C@H]1C([C@H]1C(=O)Cl)(C)C)C(F)(F)F | C9H9Cl2F3O
reactant | pyridine | 0.004 mole, 0.32 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | trans-3-[(4-fluorophenyl)-methyl]-1-indanyl cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarboxylate | 1.62 g | ClC(=C[C@H]1C([C@H]1C(=O)O[C@@H]1C[C@H](C2=CC=CC=C12)CC1=CC=C(C=C1)F)(C)C)C(F)(F)F | C25H23ClF4O2
